US09428528B2
Step 4 Preparation of 1-((4R,5R)-5-{4-[6-(1-Benzylamino-2,2,2-trifluoro-ethyl)-pyridin-3-yl]-phenyl}-4-fluoromethyl-2,2-dimethyl-oxazolidin-3-yl)-2,2-difluoro-ethanone
To a stirred solution of Benzyl-[1-(5-bromo-pyridin-2-yl)-2,2,2-trifluoro-ethyl]-amine (0.15 g, 0.43 mmol) and 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone (0.18 g, 0.43 mmol) in toluene:ethanol:water (1:1:1; 7:7:7 mL) is added Na2CO3 (0.11 g, 1.08 mmol) at room temperature. Resulting reaction mixture is degassed with nitrogen for 30 minutes then added Pd(PPh3)4 (0.05 g, 0.043 mmol) and mixture is heated to 80° C. for 3 hours. Reaction mixture is concentrated in vacuo and crude material is purified by combi-flash eluting in 20% Ethyl acetate in Hexane to afford the title compound (0.22 g). 1H NMR (400 MHz, DMSO) δ: 1.52 (s, 3H), 1.60 (s, 3H), 3.59-3.69 (m, 2H), 3.73-3.78 (m, 1H), 4.47-4.51 (m, 0.5H), 4.55-4.59 (m, 0.5H), 4.66-4.72 (m, 1H), 4.75-4.79 (m, 0.5H), 4.80-4.93 (m, 0.5H), 5.28 (d, J=3.68 Hz 1H), 6.65 (t, J=51.92 Hz, 1H) 7.23-7.24 (m, 2H), 7.26-7.31 (m, 3H), 7.56-7.62 (m, 3H), 7.75 (d, J=8.16 Hz, 1H), 8.06 (s, 1H), 8.16 (d, J=8.32 Hz 1H), 8.73 (s, 1H). LC-MS (m/z): [M+H]=552.1.

reactant | Benzyl-[1-(5-bromo-pyridin-2-yl)-2,2,2-trifluoro-ethyl]-amine | 0.43 mmol, 0.15 g | C(C1=CC=CC=C1)NC(C(F)(F)F)C1=NC=C(C=C1)Br | C14H12BrF3N2
reactant | 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone | 0.43 mmol, 0.18 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C)F | C20H27BF3NO4
reactant | Na2CO3 | 1.08 mmol, 0.11 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene ethanol water | 7 mL | C1(=CC=CC=C1)C.C(C)O.O
catalyst | Pd(PPh3)4 | 0.043 mmol, 0.05 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-((4R,5R)-5-{4-[6-(1-Benzylamino-2,2,2-trifluoro-ethyl)-pyridin-3-yl]-phenyl}-4-fluoromethyl-2,2-dimethyl-oxazolidin-3-yl)-2,2-difluoro-ethanone | 0.22 g | C(C1=CC=CC=C1)NC(C(F)(F)F)C1=CC=C(C=N1)C1=CC=C(C=C1)[C@@H]1[C@@H](N(C(O1)(C)C)C(C(F)F)=O)CF | C28H27F6N3O2
